US07399759B2
2-(1,3-Oxazol-5-yl)pyridine N-oxide
2-(1,3-Oxazol-5-yl)pyridine (2.8 g, 19 mmol) and 3-chloroperbenzoic acid (77%, 13.6 g, 58 mmol) were dissolved in ethyl acetate, and the mixture was stirred at room temperature for 6 days. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with methanol-ethyl acetate (1:4, v/v) were collected and concentrated to give the titled compound (1.1 g, 34%).

reactant | 2-(1,3-Oxazol-5-yl)pyridine | 19 mmol, 2.8 g | O1C=NC=C1C1=NC=CC=C1 | C8H6N2O
reactant | 3-chloroperbenzoic acid | 58 mmol, 13.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1,3-Oxazol-5-yl)pyridine N-oxide | 1.1 g, 34% | O1C=NC=C1C1=[N+](C=CC=C1)[O-] | C8H6N2O2
